US03976619
Preparation of diethylene glycol bis-phosphorodichloridate
In a 1 liter flask, fitted with a mechanical stirrer, thermometer and reflux condenser are placed 307 gms. (2.0 moles) phosphorus oxychloride. The phosphorus oxychloride is cooled to 14° to 15°C. and 106 gms. (1.0 moles) of diethylene glycol is added over a period of 2 to 3 hours. Residual phosphorus oxychloride is removed. The product recovered is is diethylene glycol bis-phosphorodichloridate. The temperature of the reaction mixture is then raised to 30°C. for about 1 hour.

reactant | phosphorus oxychloride | 2.0 moles | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethylene glycol | 1.0 moles | C(COCCO)O | C4H10O3
product | diethylene glycol bis-phosphorodichloridate | P(=O)(Cl)(Cl)OCCOCCOP(=O)(Cl)Cl | C4H8Cl4O5P2
